data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_519911_0,[C:1]([C:5](=[C:4]([O:7][H:11])[O:8][H:10])[N:9]=[C:6]([C:2]([H:15])([H:16])[H:17])[C:3]([H:18])([H:19])[H:20])([H:12])([H:13])[H:14]>>[C:1]([C:5]1([C:4](=[O:7])[O:8][H:10])[C:6]([C:2]([H:15])([H:16])[H:17])([C:3]([H:18])([H:19])[H:20])[N:9]1[H:11])([H:12])([H:13])[H:14],43.9902600000093
MR_157310_1,[C@@:1]1([C:3]([H:16])([H:17])[H:18])([H:11])[C@:6]([C@@:2]([C:4]([H:19])([H:20])[H:21])([N:7]([H:13])[H:14])[H:12])([O:9][H:10])[C@@:8]1([C:5]([H:22])([H:23])[H:24])[H:15]>>[C:1]([C:2]([C:4]([H:19])([H:20])[H:21])([N:7]([H:13])[H:14])[H:12])([C:3]([H:16])([H:17])[H:18])(/[C:6](=[C:8](\[C:5]([H:22])([H:23])[H:24])[H:15])[O:9][H:10])[H:11],72.34761249996637
MR_40290_0,[C:1](/[N:5]=[C:3]([C:2]([H:12])([H:13])[H:14])\[C:4](=[N:6]/[H:7])[H:8])([H:9])([H:10])[H:11]>>[C:1](=[N:5][C:3]1([C:2]([H:12])([H:13])[H:14])[C:4]([H:8])([H:11])[N:6]1[H:7])([H:9])[H:10],62.13818750002517
MR_295811_0,[C:1]([C:2]([H:11])([H:12])[H:13])([C:4]([C:3]([N:5]=[O:6])=[O:7])=[O:8])([H:9])[H:10]>>[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([N:5]=[O:6])=[O:8])=[O:7])([H:9])[H:10],48.7831050000004
MR_195452_0,[N:1]([C:4](/[C:2](=[N:3]/[H:10])[O:6][H:8])([H:7])[H:12])([O:5][H:11])[H:9]>>[N:1](/[C:4](=[C:2](\[N:3]([H:10])[H:11])[O:6][H:8])[H:12])([O:5][H:7])[H:9],62.15136500002757
MR_105511_0,[C:1]([C:2]([H:10])([H:13])[H:14])([C:3]([H:11])([H:12])[H:15])([N:5][N:6][N:4]([H:8])[H:9])[H:7]>>[C:1]([C:2]([H:10])([H:13])[H:14])([C:3]([H:11])([H:12])[H:15])=[N:5][N:6]([N:4]([H:8])[H:9])[H:7],72.6061424999557
MR_137477_0,[C@:1]1([C:2]([C:4]([H:15])([H:16])[H:17])([H:10])[H:11])([H:8])[N:5]([C:3]([H:12])([H:13])[H:14])/[C:6]1=[N:7]\[H:9]>>[C:1]([N:5][C:3]([H:12])([H:13])[H:14])([C:6]([C:2]([C:4]([H:15])([H:16])[H:17])([H:10])[H:11])[N:7][H:9])[H:8],65.0849274999689
MR_676426_1,[C:1]([C:2]([N:4]([C:3]([H:13])([H:14])[H:15])[H:9])(/[C:5](=[N:7]/[H:11])[H:12])[H:10])(=[O:6])[H:8]>>[C:1]1([N:4]([C:3]([H:13])([H:14])[H:15])[H:9])([H:8])[C:2](/[C:5](=[N:7]/[H:11])[H:12])([H:10])[O:6]1,68.01221500003308
MR_381825_1,[C@:1]([C:3]([O:6][H:9])=[O:8])(/[C:4]([C:2]([H:14])([H:15])[H:16])=[N:7]\[H:13])([N:5]([H:11])[H:12])[H:10]>>[C:1](=[C:4](\[C:2]([H:14])([H:15])[H:16])[N:7]([C:3]([O:6][H:9])=[O:8])[H:13])(\[N:5]([H:11])[H:12])[H:10],53.43287999999603
MR_142763_0,[C:1]1([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[C:2]([C:3]([N:6]([H:9])[H:10])([H:11])[H:12])([H:8])[O:7]1>>[C:1]([C:2](=[O:7])[H:8])([C:3]([N:6]([H:9])[H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:5]([H:16])([H:17])[H:18],49.60889499994863
MR_476754_0,[C:1]([C:3]([H:15])([H:16])[H:17])([N:5]([C:2]([H:12])([H:13])[H:14])[H:10])([O:6][C:4]([O:7][H:9])=[O:8])[H:11]>>[C:1]([C:3]([H:15])([H:16])[H:17])([C:4]([O:7][H:9])=[O:8])([O:6][N:5]([C:2]([H:12])([H:13])[H:14])[H:10])[H:11],43.78130250000183
MR_227509_1,[C:1](\[O:4][N:2]([H:7])[H:8])([N:5][C:3]([H:10])[H:11])=[N:6]/[H:9]>>[C:1]([N:5][C:3]([O:4][N:2]([H:7])[H:8])([H:10])[H:11])[N:6][H:9],44.22431749998907
MR_487110_2,[C:1](/[C:3](=[C:2](\[N:4]([H:10])[H:11])[O:6][H:9])[N:5]([H:12])[H:13])([N:7][O:8])([H:14])[H:15]>>[C:1]1([H:14])([H:15])[C@:2]([N:4]([H:10])[H:11])([O:6][H:9])[C@@:3]1([N:5]([H:12])[H:13])[N:7][O:8],36.5612875000393
MR_486968_1,[C:1](/[C:4](=[C:3](\[N:2](/[C:7](=[C:6](/[O:9][H:11])[H:15])[H:16])[H:12])[N:5]([H:13])[H:14])[O:8][H:10])([H:17])([H:18])[H:19]>>[C:1]([C:4]([C:3]1([N:5]([H:13])[H:14])[N:2]([H:12])[C:7]1([C:6](=[O:9])[H:15])[H:16])([O:8][H:10])[H:11])([H:17])([H:18])[H:19],66.51060750000767
MR_561307_0,[C:1]([N:4]([C:2]([H:13])([H:14])[H:15])[H:11])([O:6][H:9])([O:7][H:10])/[N:8]=[C:5](\[C:3]([H:16])([H:17])[H:18])[H:12]>>[C:1]([O:6][H:9])([O:7][H:10])=[N:8][C:5]([C:3]([H:16])([H:17])[H:18])([N:4]([C:2]([H:13])([H:14])[H:15])[H:11])[H:12],46.64584000001042
MR_590023_1,[C:1](/[C:6](=[C:4](\[C:5]([C:7]([C:2]([H:18])([H:19])[H:20])[C:3]([H:21])([H:22])[H:23])[O:10][H:12])[O:9][H:11])[N:8]([H:13])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C@@:6]1([N:8]([H:13])[H:14])[C:4]([O:9][H:11])=[C:5]([O:10][H:12])[C:7]1([C:2]([H:18])([H:19])[H:20])[C:3]([H:21])([H:22])[H:23])([H:15])([H:16])[H:17],37.198200000000696
MR_105731_2,[C:1]([C:2]([C:3]([N:4]([H:8])[H:9])([O:6][H:7])[H:11])([H:12])[H:13])(=[O:5])[H:10]>>[C:1]([C:2]([C:3]([N:4]([H:8])[H:9])=[O:6])([H:12])[H:13])([O:5][H:7])([H:10])[H:11],48.46119749999275
MR_488491_2,[C:1]1([C:3]([H:11])([H:14])[H:15])([C:4]([H:12])([H:13])[H:16])[C:5]([O:6][C:2]([H:8])([H:9])[H:10])=[N:7]1>>[C:1]([C:3]([H:11])([H:14])[H:15])([C:4]([H:12])([H:13])[H:16])=[N:7][C:5]([C:2]([H:8])([H:9])[H:10])=[O:6],68.6233999999881
MR_320602_0,[C:1]([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])([C:5](/[C:6]([C:2]([H:11])([H:12])[H:13])=[N:7]\[H:10])=[O:8])[H:9]>>[C:1]([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])([C:5](=[O:8])[H:9])/[C:6]([C:2]([H:11])([H:12])[H:13])=[N:7]\[H:10],69.1611674999858
